US07781483B2
(3R*,4S*)-4-Amino-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran-3-ol
To a solution of (3R*,4R*)-3,4-epoxy-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran (2.64 g, 10.5 mmol) in ethanol (26 mL), an ammonia water (26 mL) was added, and the resulting mixture was stirred in a sealed tube at 100° C. for 2 hours. Upon the completion of the reaction, the solvent was distilled off. An aqueous solution of saturated sodium carbonate was added to the residue, and the resulting mixture was extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and thereby the aimed product was obtained as red amorphous substance (yield: 84%).

reactant | (3R*,4R*)-3,4-epoxy-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran | 10.5 mmol, 2.64 g | O1[C@H]2C(OC3=C([C@H]21)C=C(C(=C3)[N+](=O)[O-])OC)(C)C | C12H13NO5
reactant | ammonia water | 26 mL | O.N
solvent | ethanol | 26 mL | C(C)O | C2H6O
product | (3R*,4S*)-4-Amino-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran-3-ol | yield: 84% | N[C@@H]1[C@H](C(OC2=C1C=C(C(=C2)[N+](=O)[O-])OC)(C)C)O | C12H16N2O5
